US07884207B2
A mixture of 1-[(4-amino-2-propyl-1H-imidazo[4,5-c][1,5]napthyridin-1-yl)methyl]cyclopentanol (511 mg), platinum oxide (511 mg), and trifluoroacetic acid was placed under hydrogen pressure (50 psi, 3.4×105 Pa) overnight on a Parr apparatus. The mixture was filtered through a layer of CELITE filter aid and the filter cake was rinsed with methanol. The filtrate was concentrated under reduced pressure. The residue was combined with concentrated hydrochloric acid (2 mL) and stirred at ambient temperature for 2 hours. The mixture was diluted with water (10 mL) and then cooled to 0° C. The pH was adjusted to 12 with 6N sodium hydroxide and then the mixture was extracted with dichloromethane (3×50 mL). The combined organics were washed with brine (20 mL), dried over sodium sulfate, filtered, and then concentrated under reduced pressure. The residue was triturated with acetonitrile, purified by HPFC eluting with a gradient of 0-35% CMA in chloroform, and then triturated with acetonitrile to provide 167 mg of 1-[(4-amino-2-propyl-6,7,8,9-tetrahydro-1H-imidazo[4,5-c][1,5]napthyridin-1-yl)methyl]cyclopentanol as a white powder, mp 207.0-208.0° C. Anal. Calcd for C18H27N5O.0.25H2O C, 64.74; H, 8.30; N, 20.97. Found: C, 64.71; H, 8.29; N, 20.98.

reactant | 1-[(4-amino-2-propyl-1H-imidazo[4,5-c][1,5]napthyridin-1-yl)methyl]cyclopentanol | 511 mg | NC1=NC=2C=CC=NC2C2=C1N=C(N2CC2(CCCC2)O)CCC | C18H23N5O
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
catalyst | platinum oxide | 511 mg | [Pt]=O
product | 1-[(4-amino-2-propyl-6,7,8,9-tetrahydro-1H-imidazo[4,5-c][1,5]napthyridin-1-yl)methyl]cyclopentanol | 167 mg | NC1=NC=2CCCNC2C2=C1N=C(N2CC2(CCCC2)O)CCC | C18H27N5O
